US05756505
In a manner identical to Reference Example 4, ethyl 4-hydroxy-3-methoxybenzoate (4.10 g) was benzylated with 4-fluorobenzyl bromide (4.35 g) and then hydrolyzed to yield 5.57 g of 4-(4-fluorobenzyloxy)-3-methoxybenzoic acid. In a manner similar to Example 8, this material (1.38 g) were subjected to a condensation reaction with 1-isobutylpiperazine dihydrochloride (1.08 g), thereby yielding 2.24 g of 1-[4-(4-fluorobenzyloxy)-3-methoxybenzoyl]-4-isobutyl piperazine. This material was dissolved in diethyl ether (50 ml) and then 1N hydrogen chloride ether solution (10 ml) was added thereto. The mixture was stirred at room temperature for 10 minutes and then the resulting crystals were collected by filtration and recrystallized (from n-hexane/ethanol), thereby yielding 1.60 g of the aimed compound.

reactant | ethyl 4-hydroxy-3-methoxybenzoate | 4.10 g | OC1=C(C=C(C(=O)OCC)C=C1)OC | C10H12O4
reactant | 4-fluorobenzyl bromide | 4.35 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 4-(4-fluorobenzyloxy)-3-methoxybenzoic acid | 5.57 g | FC1=CC=C(COC2=C(C=C(C(=O)O)C=C2)OC)C=C1 | C15H13FO4
